US05759432
mixing and calcining stoichiometric amounts of magnesium oxide and niobium oxide to form a magnesium niobate precursor;

reactant | magnesium oxide | [O-2].[Mg+2]
reactant | niobium oxide | [O-2].[Nb+5].[O-2].[O-2].[O-2].[O-2].[Nb+5]
product | magnesium niobate | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Mg+2].[Mg+2].[Nb+5].[Nb+5] | InChI=1S/2Mg.2Nb.7O/q2*+2;2*+5;7*-2
